US08138173B2
Acetyl chloride (26 mL, 364 mmol), acetic acid (30 mL), and phenylhydrazine (36 mL, 364 mmol) were added sequentially to a suspension of material from Part A (37 g, 182 mmol) in ethanol (910 mL). The reaction mixture was heated at reflux for 18 hours. A white solid was isolated by filtration and washed with ethanol. Analysis of this material by 1H NMR indicated that this material was a 1:1 mixture of starting material and product. The solid was triturated with refluxing acetonitrile to provide 2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one as a white powder, mp>250° C. MS (APCI) m/z 262 (M+H)+; Anal. calcd for C16H11N3O: C, 73.55; H, 4.24; N, 16.08. Found: C, 73.44; H, 4.21; N, 16.20.

reactant | Acetyl chloride | 364 mmol, 26 mL | C(C)(=O)Cl | C2H3ClO
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | phenylhydrazine | 364 mmol, 36 mL | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 910 mL | C(C)O | C2H6O
product | 2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | C1(=CC=CC=C1)N1N=C2C(NC=3C=CC=CC3C2=C1)=O | C16H11N3O
